US07223824B2
After adding litiumidenide (IndLi) powder (17.52 g, 0.144 mol) and hexane (300 ml) into a 500 mL flask under nitrogen atmosphere, tributyltin chloride (41 ml, 0.145 mol) was injected into the above mentioned flask with syringe slowly. The mixture is stirred at room temperature for 48 hours. Yellowish oil type product was obtained by a series of processes, such as separating the organic liquid by filtering reaction mixture and removing volatile from filtrate. Then the obtained yellowish oil type product was diluted with methylenedichloride (200 ml), and zirconium tetrachloride (ZrCl4, 33.03 g, 0.142 mol) was added. The mixture is stirred at room temperature for 48 hours. Indenylzirconium trichloride (IndZrCl3, 39.5 g, yield: 88%) was obtained by a series of processes, such as removing the volatile from reaction mixture, slurrifying by adding hexane (200 ml), filtering, collecting scarlet colored solid powder and drying.

reactant | hexane | 300 ml | CCCCCC | C6H14
reactant | tributyltin chloride | 0.145 mol, 41 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | zirconium tetrachloride | 0.142 mol, 33.03 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | methylenedichloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Indenylzirconium trichloride | 39.5 g, yield: 88% | [Cl-].[Cl-].[Cl-].C1(C=CC2=CC=CC=C12)[Zr+3] | InChI=1S/C9H7.3ClH.Zr/c1-2-5-9-7-3-6-8(9)4-1;;;;/h1-7H;3*1H;/q;;;;+3/p-3
